US20010018459A1
Betulinic acid, 100 mg (0.22 mmoles) was added to a solution containing 4 mg of 4-dimethylaminopyridine (DMAP) and 0.5 ml of (CH3CO)2O in 5 ml of CH2Cl2. After 2 hrs CH2Cl2 was removed in vacuo, and the remaining residue stirred with 25 ml of water. During the stirring enough of K2CO3 was added to decompose an excess of acetic anhydride, after which the reaction mixture was extracted with 25 ml of CH2Cl2. The extract was evaporated to dryness and the resulting solid crystallized from MeOH to give 104 mg of acetylbetulinic acid as white crystals, m.p. 285° C.

reactant | Betulinic acid | CC(=C)[C@@H]1CC[C@]2([C@H]1[C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)O)C)C(=O)O | C30H48O3
reactant | (CH3CO)2O | 0.5 ml | O(C(=O)C)C(=O)C | C4H6O3
catalyst | 4-dimethylaminopyridine | 4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | acetylbetulinic acid | 104 mg | CC(=C)C1CCC2(C1C3CCC4C5(CCC(C(C5CCC4(C3(CC2)C)C)(C)C)OC(=O)C)C)C(=O)O | C32H50O4
